US07304081B2
(1R)-1′-({1-[4-(6-Fluoropyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-({1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (130 mg, 0.00029 mol) in 1,4-dioxane (1 mL, 0.01 mol) were added 5-bromo-2-fluoropyridine (0.060 mL, 0.00058 mol), tris(dibenzylideneacetone)dipalladium(0) (1 mg, 0.000001 mol), tri-tert-butylphosphine (0.71 mg, 0.0000035 mol) and potassium fluoride (56 mg, 0.00096 mol). The mixture was heated at 110° C. under nitrogen for 30 minutes. The mixture was diluted with ethyl acetate, washed with water and brine successively, dried and concentrated. The product was purified by CombiFlash using CH2Cl2/EtOAc (max.EA 30%). LC-MS: 429.2 (M+H+)

reactant | (1R)-1′-({1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.00029 mol, 130 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)C | C27H30BNO5
reactant | 1,4-dioxane | 0.01 mol, 1 mL | O1CCOCC1 | C4H8O2
reactant | 5-bromo-2-fluoropyridine | 0.00058 mol, 0.060 mL | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | tri-tert-butylphosphine | 0.0000035 mol, 0.71 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium fluoride | 0.00096 mol, 56 mg | [F-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.000001 mol, 1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-({1-[4-(6-Fluoropyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC1=CC=C(C=N1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C26H21FN2O3
